US07148236B2
To a solution of 3-mercaptobenzoic acid (1.00 g, 6.49 mmol) in DME (ethyleneglycol-dimethylether, ˜15 ml) was added N-methylmorpholine (1.5 ml, 13.6 mmol) and isobutylchloroformate (1.77 ml, 13.6 mmol) under a flow of nitrogen. The clear solution quickly became a cloudy mixture and the temperature started to rise. After stirring for half an hour the reaction was filtered and then treated with 0.5M NH3 in dioxane (27 ml, 13.5 mmol). The reaction was treated with sodium methoxide in methanol, then quenched with 2N HCl until pH=4 and then concentrated in vacuo to a white paste. This was partitioned between CHCl3 and H2O (3×100 ml) and the organic layer dried (MgSO4) and concentrated in vacuo to a white solid (1.6 g). This was dissolved in H2O, basified (2N NaOH, pH=10) and the aqueous washed with CHCl3. The aqueous was acidified (2N HCl, pH=2) then extracted with CHCl3 (2×50 ml). The organic extracts were dried (MgSO4) then concentrated in vacuo to give 3-mercaptobenzamide as a white solid (501 mg).

reactant | 3-mercaptobenzoic acid | 6.49 mmol, 1.00 g | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | N-methylmorpholine | 13.6 mmol, 1.5 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 13.6 mmol, 1.77 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NH3 | 0.5M | N | H3N
reactant | dioxane | 13.5 mmol, 27 ml | O1CCOCC1 | C4H8O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | DME | ˜15 ml | COCCOC | C4H10O2
solvent | methanol | CO | CH4O
product | 3-mercaptobenzamide | 501 mg | SC=1C=C(C(=O)N)C=CC1 | C7H7NOS
